US04005208
To 99 g. of cyclohexylamine at reflux temperature is added 115.5 g. of 1,4-dibromo-2-butanol at a rate which maintains reflux without external heating. The temperature of the reaction mixture is maintained at 130°-140° C. in an oil bath for two hours after addition is complete. Water (100 ml.) is added and this mixture is then acidified with concentrated hydrochloric acid, cooled and extracted with ether. The aqueous layer is made alkaline with 50% aqueous sodium hydroxide solution, saturated with solid potassium carbonate and extracted three times with chloroform. The combined chloroform extracts are dried over potassium carbonate, concentrated and the residue distilled in vacuo to give N-cyclohexyl-3-pyrrolidinol.

reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
reactant | 1,4-dibromo-2-butanol | BrCC(CCBr)O | C4H8Br2O
reactant | hydrochloric acid | Cl | ClH
solvent | Water | 100 ml | O | H2O
product | N-cyclohexyl-3-pyrrolidinol | C1(CCCCC1)N1CC(CC1)O | C10H19NO
